US05604229
2-Acetylamino-2-(4-decylphenyl)-1,3-propanediol
2-Amino-2-(4-decylphenyl)-1,3-propanediol (313 mg) was dissolved in a mixed solvent of ethanol (20 ml) and chloroform (5 ml). Thereto was added triethylamine (0.4 ml) and the mixture was cooled to -60° C. with dry ice-methanol. Thereto was dropwise added a solution of acetyl chloride (0.12 ml) in dichloromethane (5 ml) under ice-cooling and the mixture was heated to room temperature. The solvent was distilled away and the residue was dissolved in ethyl acetate. The mixture was washed with brine, an aqueous dilute hydrochloric acid solution and an aqueous sodium hydrogencarbonate solution. The resultant mixture was dried over anhydrous sodium sulfate and the solvent was distilled away. The residue was purified by preparative thin layer chromatography (silica gel) and recrystallized from hexane to give 130 mg of the colorless, crystalline subject compound.

reactant | 2-Amino-2-(4-decylphenyl)-1,3-propanediol | 313 mg | NC(CO)(CO)C1=CC=C(C=C1)CCCCCCCCCC | C19H33NO2
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | dry ice methanol | C(=O)=O.CO
reactant | acetyl chloride | 0.12 ml | C(C)(=O)Cl | C2H3ClO
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-Acetylamino-2-(4-decylphenyl)-1,3-propanediol | C(C)(=O)NC(CO)(CO)C1=CC=C(C=C1)CCCCCCCCCC | C21H35NO3
